US07390797B2
Methyl 4-iodo-5-oxo-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-1-carboxylate (6-c(2))
120 mg of the mixture of 6-iodo-5-oxo-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-1-carboxaldehyde and its 4-iodo form prepared in Example 6-b was oxidized by the procedure of Example 4 using sodium hypochlorite. The resulting carboxylic acids were dissolved in 10 ml of N,N-dimethylformamide, and 0.03 ml of methyl iodide and 70 mg of potassium carbonate were added, followed by stirring at room temperature for 2 hours. Water was added to the reaction mixture, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, dried over anhydrous magnesium sulfate, and the solvent was evaporated. The residue was purified and separated by silica gel column chromatography (ethyl acetate:hexane=1:10), to give 110 mg of a mixture of the title compounds as a colorless oil.

reactant | 6-iodo-5-oxo-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-1-carboxaldehyde | IC1=CC=CC2=C1C(C1=C(CC2)C(=CC=C1)C=O)=O | C16H11IO2
reactant | sodium hypochlorite | Cl[O-].[Na+]
reactant | methyl iodide | 0.03 ml | CI | CH3I
reactant | potassium carbonate | 70 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 10 ml | CN(C=O)C | C3H7NO
solvent | Water | O | H2O
product | Methyl 4-iodo-5-oxo-10,11-dihydro-5H-dibenzo[a,d]cycloheptene-1-carboxylate | 110 mg | IC1=CC=C(C2=C1C(C1=C(CC2)C=CC=C1)=O)C(=O)OC | C17H13IO3
